### PR TITLE
[Merged by Bors] - feat(Algebra/Group/Hom): upgrade a MulHom to a MonoidHomClass when codomain is left-cancellative

### PR DESCRIPTION
**Pull request by pechersky**
Allows for easier manipulation when inv and div is taken over terms mapped by MulHoms

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jjdishere** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/740dfa1f07d0a871fecff111f77c6447c2d3a48e?reference=800238935b9c4b495da5771a0dac0db5549b26ab) for 740dfa1f07d0a871fecff111f77c6447c2d3a48e against 800238935b9c4b495da5771a0dac0db5549b26ab are in. No significant results found. @jjdishere

- 🟥 `build//instructions`: **+5.9G** (**+0.00%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.Algebra.Group.Hom.Defs//instructions`: **+790.8M** (**+2.85%**)

File: Mathlib/Algebra/Group/Hom/Defs.lean [hunk 1]
```diff
@@ -714,6 +714,23 @@ theorem map_exists_left_inv (f : F) {x : M} (hx : ∃ y, y * x = 1) : ∃ y, y *
...
+
+@[to_additive]
+instance {M N : Type*} [Monoid M] [RightCancelMonoid N] : MonoidHomClass (M →ₙ* N) M N where
+  map_mul := MulHom.map_mul'
+  map_one f := by
+    have h : 1 * f 1 = f 1 * f 1 := by simpa using f.map_mul' 1 1
+    exact (mul_right_cancel h).symm
+
+@[to_additive]
+instance {M N : Type*} [Monoid M] [CancelMonoid N] : MonoidHomClass (M →ₙ* N) M N where
```
Comment (jjdishere) [inline Mathlib/Algebra/Group/Hom/Defs.lean]:
```suggestion
@[to_additive]
instance (priority := low) {M N F : Type*} [Monoid M] [LeftCancelMonoid N] [FunLike F M N]
    [MulHomClass F M N] : MonoidHomClass F M N where
  map_mul := MulHomClass.map_mul
  map_one f := by
    have h : f 1 * 1 = f 1 * f 1 := by simpa using MulHomClass.map_mul f 1 1
    exact (mul_left_cancel h).symm

@[to_additive]
instance (priority := low) {M N F : Type*} [Monoid M] [RightCancelMonoid N] [FunLike F M N]
    [MulHomClass F M N] : MonoidHomClass F M N where
  map_mul := MulHomClass.map_mul
  map_one f := by
    have h : 1 * f 1 = f 1 * f 1 := by simpa using MulHomClass.map_mul f 1 1
    exact (mul_right_cancel h).symm

@[to_additive]
instance (priority := low) {M N F : Type*} [Monoid M] [CancelMonoid N] [FunLike F M N]
    [MulHomClass F M N] : MonoidHomClass F M N where
```

Can you bench this? If the performance is bad, then the old version looks good to me.

**Comment by pechersky** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/03211d9214117ceafdd75890ff713853ce81eb25?reference=800238935b9c4b495da5771a0dac0db5549b26ab) for 03211d9214117ceafdd75890ff713853ce81eb25 against 800238935b9c4b495da5771a0dac0db5549b26ab are in. No significant results found. @pechersky

- 🟥 `build//instructions`: **+84.5G** (**+0.06%**)

**Medium changes (1🟥)**

- 🟥 `build/module/Mathlib.Algebra.Polynomial.Homogenize//instructions`: **+5.2G** (**+19.94%**)

**Small changes (9🟥)**

- 🟥 `build/module/Mathlib.Algebra.AddConstMap.Basic//instructions`: **+1.3G** (**+4.79%**)
- 🟥 `build/module/Mathlib.Algebra.Group.Hom.Defs//instructions`: **+777.7M** (**+2.80%**)
- 🟥 `build/module/Mathlib.Algebra.Lie.Loop//instructions`: **+2.6G** (**+6.89%**)
- 🟥 `build/module/Mathlib.Analysis.AbsoluteValue.Equivalence//instructions`: **+1.9G** (**+4.18%**)
- 🟥 `build/module/Mathlib.Analysis.Distribution.ContDiffMapSupportedIn//instructions`: **+3.9G** (**+1.87%**)
- 🟥 `build/module/Mathlib.Analysis.Polynomial.Norm//instructions`: **+636.6M** (**+7.86%**)
- 🟥 `build/module/Mathlib.LinearAlgebra.QuadraticForm.Radical//instructions`: **+1.3G** (**+5.94%**)
- 🟥 `build/module/Mathlib.NumberTheory.Cyclotomic.PrimitiveRoots//instructions`: **+919.9M** (**+2.55%**)
- 🟥 `build/module/Mathlib.RingTheory.HahnSeries.Lex//instructions`: **+3.0G** (**+5.38%**)

**Comment by pechersky** [comment]
@jjdishere so the bench with low_prio seems worse?

**Comment by jjdishere** [comment]
I would say the previous version is better and LGTM. I prefer not to sacrifice performance for generalization that is not clearly useful.

Could you please revert it to the original one? Thanks!

**Comment by jjdishere** [comment]
The auto-generated names are terrible
```
MonoidHom.instMonoidHomClassMulHom
MonoidHom.instMonoidHomClassMulHom_1
MonoidHom.instMonoidHomClassMulHom_2
```

Can you rename them to 
```
MonoidHomClass.ofLeftCancelMonoid
MonoidHomClass.ofRightCancelMonoid
MonoidHomClass.ofCancelMonoid
```

Thanks!

maintainer d+

**Comment by jjdishere** [comment]
Oops

maintainer delegate

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/6f7c5f30af4f72a2bf2c1ddbf3ec9ee3d804e5ca?reference=800238935b9c4b495da5771a0dac0db5549b26ab) for 6f7c5f30af4f72a2bf2c1ddbf3ec9ee3d804e5ca against 800238935b9c4b495da5771a0dac0db5549b26ab are in. No significant results found. @riccardobrasca

- 🟥 `build//instructions`: **+151.8G** (**+0.10%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.Algebra.Group.Hom.Defs//instructions`: **+757.9M** (**+2.73%**)

**Comment by ocfnash** [comment]
Thanks, and also to everyone for being careful to explore the performance impact (which looks reasonable).

bors merge
